US06465478B1
3-(3-Aminopropyl)-1-phenyl-8-(1-phenylcycloheptyl)-1,3,8-triazaspiro[4.5]decan-4-one
This was prepared according to the procedure of A. Petric et al. (Bioorg. Med. Chem. Lett. 1998, 8, 1455). To a stirred solution of 1-phenyl-8-(1-phenylcycloheptyl)-1,3,8-triazaspiro[4.5]decan-4-one (54.3 mg, 0.135 mmol) in toluene (0.3 ml) was added a solution of NaOH (23.8 mg, 0.595 mmol) in water (0.5 ml), n-Bu4NHSO4 (70.8 mg, 0.209 mmol), and a solution of N-(t-butoxycarbonyl)-3-bromopropylamine (65.3 mg, 0.274 mmol, this was reported by B. H. Lee et al. J. Org. Chem. 1983, 48, 24) in toluene (0.7 ml) at room temperature. The reaction mixture was stirred at room temperature for 18 h, then at 90° C. for 2 h. The reaction mixture was cooled down to room temperature, diluted with water, and extracted with CH2Cl2. The extracts combined were washed with brine, dried (Na2SO4), filtered, and concentrated. The residue was purified by preparative TLC (1 mm plate×2, CH2Cl2/MeOH:95/5, two times developed) to afford 54.2 mg (71.8%) of colorless solid.

reactant | 1-phenyl-8-(1-phenylcycloheptyl)-1,3,8-triazaspiro[4.5]decan-4-one | 0.135 mmol, 54.3 mg | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)C2(CCCCCC2)C2=CC=CC=C2)=O | C26H33N3O
reactant | NaOH | 0.595 mmol, 23.8 mg | [OH-].[Na+]
reactant | N-(t-butoxycarbonyl)-3-bromopropylamine | C(C)(C)(C)OC(=O)NCCCBr | C8H16BrNO2
solvent | toluene | 0.3 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.5 ml | O | H2O
catalyst | n-Bu4NHSO4 | 0.209 mmol, 70.8 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[O-]S(=O)(=O)O
solvent | toluene | 0.7 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(3-Aminopropyl)-1-phenyl-8-(1-phenylcycloheptyl)-1,3,8-triazaspiro[4.5]decan-4-one | 54.2 mg, 71.8% | NCCCN1CN(C2(C1=O)CCN(CC2)C2(CCCCCC2)C2=CC=CC=C2)C2=CC=CC=C2 | C29H40N4O
